US04703054
1-(2-Benzylaminoacetyl)-2,2-dimethyl-4-imidazolidinone
A solution of 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone (1.9 g) in 8.8 ml of benzylamine was stirred at room temperature for 4 hours. The excess of benzylamine was removed under reduced pressure (about 5 mmHg) at 80° C. The residue was taken up with ethyl acetate and the precipitate filtered off. The filtrate was evaporated and the residue was chromatographed on a silica gel column by eluting with dichloromethane/methanol 7:3. The selected fractions were collected and evaporated. Trituration of the residue with ether gave 1 g of the title compound as a white powder, m.p. 131°-132° C.

reactant | 1-(2-bromoacetyl)-2,2-dimethyl-4-imidazolidinone | 1.9 g | BrCC(=O)N1C(NC(C1)=O)(C)C | C7H11BrN2O2
reactant | benzylamine | 8.8 ml | C(C1=CC=CC=C1)N | C7H9N
product | 1-(2-Benzylaminoacetyl)-2,2-dimethyl-4-imidazolidinone | 1 g | C(C1=CC=CC=C1)NCC(=O)N1C(NC(C1)=O)(C)C | C14H19N3O2
